US07101903B2
6-(Benzyloxy)-1,9-dihydropyrano[3,4-b]indole-3,4-dione
The title compound was prepared from [2-[(acetyloxy)methyl]-5-(benzyloxy)-1H-indol-3-yl](oxo)acetic acid and aqueous potassium hydroxide in substantially the same manner, as described in step 6 of Example 1, followed by the treatment with aqueous HCl, as described in step 7 of Example 1. The product was obtained as a yellow solid; mp: >291° C. (dec.). Mass spectrum (ESI, [M−H]−) m/z 306. 1H NMR (400 MHz, DMSO-d6) δ 12.37 (s, 1H), 7.54 (s, 1H), 7.49 (s, 1H), 7.48 (d, 2H, J=8.86 Hz), 7.39 (t, 2H, J=7.64 Hz), 7.32 (d, 1H, J=7.18 Hz), 7.04 (dd, 1H, J=8.71 and 2.59 Hz), 5.82 (s, 2H), and 5.16 ppm (s, 2H).

reactant | [2-[(acetyloxy)methyl]-5-(benzyloxy)-1H-indol-3-yl](oxo)acetic acid | C(C)(=O)OCC=1NC2=CC=C(C=C2C1C(C(=O)O)=O)OCC1=CC=CC=C1 | C20H17NO6
reactant | potassium hydroxide | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 6-(Benzyloxy)-1,9-dihydropyrano[3,4-b]indole-3,4-dione | C(C1=CC=CC=C1)OC=1C=C2C3=C(NC2=CC1)COC(C3=O)=O | C18H13NO4
